US05134111
(a) Synthesis of 8-methoxymethoxy-1-naphthalene carbaldehyde
9.5 g of 8-hydroxy-1-naphthol was dissolved in 210 ml of acetone, to which 22.7 g of hydrous potassium carbonate and 5.43 ml of chloromethyl methyl ether were added and refluxed for one hour under heating. The reaction solution was filtered and the filtrate was concentrated. 12.2 g of thus obtained yellow oily product was dissolved with no further purification into 250 ml of dichloromethane, to which 4.3 g of pyridinium trifluoro acetate and 18.3 g of pyridinium dichromate were added and stirred at a room temperature for 12 hours. After filtering off insoluble matters, the filtrate was concentrated and then purified on silica gel column chromatography (10% ethyl acetatemexane), to obtain in 5.1 g of the above-captioned compound as colorness crystals.

reactant | 8-hydroxy-1-naphthol | 9.5 g | OC=1C=CC=C2C=CC=C(C12)O | C10H8O2
reactant | potassium carbonate | 22.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl methyl ether | 5.43 ml | COCCl | C2H5ClO
solvent | acetone | 210 ml | CC(=O)C | C3H6O
product | 8-methoxymethoxy-1-naphthalene carbaldehyde | 5.1 g | COCOC=1C=CC=C2C=CC=C(C12)C=O | C13H12O3
